US05462954
2-Methyl-2-n-pentyl-7-(2-ethyl-5-benzyloxyphenoxy)heptanenitrile
7-(2-Acetyl-5-benzyloxyphenoxy)-2-methyl-2-n-pentylheptanenitrile was dissolved in carbon tetrachloride containing 6 equivalents of triethylsilane. After addition of 60 equivalents of trifluoroacetic acid, the solution was stirred 24 hours and then evaporated in vacuo. The residue was chromatographed on silica gel eluting with hexane/ethyl ether to provided the title product as an oil in 90% yield, NMR.

reactant | 7-(2-Acetyl-5-benzyloxyphenoxy)-2-methyl-2-n-pentylheptanenitrile | C(C)(=O)C1=C(OCCCCCC(C#N)(CCCCC)C)C=C(C=C1)OCC1=CC=CC=C1 | C28H37NO3
reactant | carbon tetrachloride | 6 equivalents | C(Cl)(Cl)(Cl)Cl | CCl4
reactant | trifluoroacetic acid | 60 equivalents | FC(C(=O)O)(F)F | C2HF3O2
solvent | triethylsilane | C(C)[SiH](CC)CC | C6H16Si
product | 2-Methyl-2-n-pentyl-7-(2-ethyl-5-benzyloxyphenoxy)heptanenitrile | 90% yield | CC(C#N)(CCCCCOC1=C(C=CC(=C1)OCC1=CC=CC=C1)CC)CCCCC | C28H39NO2
